US04757081
To 300 ml of toluene were added 6.4 g (0.022 mole) of 1-(2-bromophenyl)-N-phenylpropaneimine, 3.9 g (0.022 mole) ethyl phenylpropiolate and 3.6 g (0.027 mole) of aluminum chloride. The reaction mixture was then heated at 60° C. hours. After cooling, the reaction mixture was poured into 500 ml of 2N sulfuric acid, followed by extraction with methylene chloride. After washing the organic layer (the extract) with water, the organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was subjected to chromatography on a silica gel column (eluent: ethyl acetate). The resultant crystals were then recrystallized from a 2:1 mixed solvent of acetone and hexane to obtain 1.3 g of 2-(2-bromophenyl)-3-methyl-1,6-diphenyl-4(1H)-pyridinone hemihydrochloride having a melting point of 236°-238° C.

reactant | 1-(2-bromophenyl)-N-phenylpropaneimine | 0.022 mole, 6.4 g | BrC1=C(C=CC=C1)C(CC)=NC1=CC=CC=C1 | C15H14BrN
reactant | ethyl phenylpropiolate | 0.022 mole, 3.9 g | C1(=CC=CC=C1)C#CC(=O)OCC | C11H10O2
reactant | aluminum chloride | 0.027 mole, 3.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sulfuric acid | 2N, 500 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-bromophenyl)-3-methyl-1,6-diphenyl-4(1H)-pyridinone hemihydrochloride | 1.3 g | Cl.BrC1=C(C=CC=C1)C=1N(C(=CC(C1C)=O)C1=CC=CC=C1)C1=CC=CC=C1.BrC1=C(C=CC=C1)C=1N(C(=CC(C1C)=O)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/2C24H18BrNO.ClH/c2*1-17-23(27)16-22(18-10-4-2-5-11-18)26(19-12-6-3-7-13-19)24(17)20-14-8-9-15-21(20)25;/h2*2-16H,1H3;1H
